US07320994B2
{2-[1-(3,5-bis-trifluoromethyl-benzyl)-5-methyl-1H-[1,2,3]triazol-4-yl]-pyridin-3-yl}-(2-chloro-phenyl)-methanone
Dissolve (2-bromo-pyridin-3-yl)-(2-chloro-phenyl)-methanone (148 mg, 0.50 mmol) and 1-(3,5-bis-trifluoromethyl-benzyl)-5-methyl-4-tributylstannanyl-1H-[1,2,3]triazole (449 mg, 0.75 mmol) in DMF (5 mL) and degass, then add dichlorobis(triphenylphosphine) palladium (70 mg, 0.10 mmol). Seal the mixture under N2 and heat at 80° C. for 24 hours. Concentrate, dissolve in CHCl3, wash with saturated potassium fluoride solution (2×), saturated potassium bicarbonate solution, brine, dry over MgSO4 and concentrate. Purify the residue by flash chromatography on silica gel eluting with 0-40% EtOAc/hexane followed by recrystallization from EtOAc/hexane to afford the title compound (142 mg, 54%). MS(IS) 525 (M+1); TLC (60% EtOAc/hexane) Rf=0.30.

reactant | (2-bromo-pyridin-3-yl)-(2-chloro-phenyl)-methanone | 0.50 mmol, 148 mg | BrC1=NC=CC=C1C(=O)C1=C(C=CC=C1)Cl | C12H7BrClNO
reactant | 1-(3,5-bis-trifluoromethyl-benzyl)-5-methyl-4-tributylstannanyl-1H-[1,2,3]triazole | 0.75 mmol, 449 mg | FC(C=1C=C(CN2N=NC(=C2C)[Sn](CCCC)(CCCC)CCCC)C=C(C1)C(F)(F)F)(F)F
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | {2-[1-(3,5-bis-trifluoromethyl-benzyl)-5-methyl-1H-[1,2,3]triazol-4-yl]-pyridin-3-yl}-(2-chloro-phenyl)-methanone | 142 mg, 54% | FC(C=1C=C(CN2N=NC(=C2C)C2=NC=CC=C2C(=O)C2=C(C=CC=C2)Cl)C=C(C1)C(F)(F)F)(F)F | C24H15ClF6N4O
